data/rdb19/train.csv
rxn,smiles,ea
3967,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([H:10])([H:11])([H:12])[C:24]([H:25])([H:26])[H:27].[C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14],57.44838271063054
1804,[C:15]([O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:17]([O:16][C:15]([H:19])([H:20])[H:21])([C:18]([H:23])[H:24])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],21.65020686597564
5400,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5][c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:13][C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:20])[H:21],25.141390765609685
5513,[C:1]([C:2]([O:3])([O:4][C:5](=[C:6]([H:11])[H:12])[H:10])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:7])([H:8])[H:9]>>[C:13]([C:14]([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]1([O:4][C:5](=[C:6]([H:11])[H:12])[H:10])[O:3][C:15]1([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:7])([H:8])[H:9],66.89760396070778
209,[C:12]([C:13](=[O:14])[O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:17]([C:16]([O:15][C:13]([C:12]([H:18])([H:19])[H:20])=[O:14])[H:21])([H:22])[H:23])([H:6])([H:7])[H:8],17.8544555879198
2348,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[H:17])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])[H:18])([H:14])([H:15])[H:16],21.70590159104904
137,[C:12]([O:13][C:14](=[C:15]([H:20])[H:21])[H:19])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:15]([C:14]([O:13][C:12]([H:16])([H:17])[H:18])[H:19])([H:20])[H:21])([H:6])([H:7])[H:8],18.79727709735744
396,[C:4](=[C:5]([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11])([H:9])[H:10].[O:1]([O:2])[H:3]>>[C:4](=[C:5]([N:6]([C:7]=[O:8])[H:12])[H:11])([H:9])[H:10].[O:1]([O:2][H:13])[H:3],19.94987112111994
3824,[C:13]([C:14]([C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])[H:7].[H:6][C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25],24.24501795205288
2579,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([H:24])([H:25])[H:26].[H:16][O:21][C:22](=[C:23]([H:28])[H:29])[H:27],64.6492307811859
3441,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[O:18][C:17]([H:24])([H:25])[H:26])([H:9])[H:10])([H:6])([H:7])[H:8],47.25453326251591
4433,[C:13]([H:14])([H:15])[H:16].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3][H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9].[H:10][C:13]([H:14])([H:15])[H:16],23.879183489189018
3904,[C:13]([C:14]([C:15]([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:15]([C:14]([C:13]([H:23])([H:24])[H:25])([H:26])[H:27])([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32],23.05466699262616
